US06008196
d) Preparation of 3-(3-pyridyl)propanoyl chloride
Add thionyl chloride (0.05 mL, 0.53 mmol) to a stirred suspension of 3-(3-pyridyl)propionic acid (80.2 mg, 0.53 mmol) and benzyltriethylammonium chloride (1 mg, 0.004 mmol) in 1,2-dichloroethane (20 mL) and heat to reflux for 2.5 hours. Cool the reaction mixture to room temperature and concentrate in vacuo. Azeotrope the residue with CCl4 and place under vacuum. Use the resulting acid chloride without further purification.

reactant | thionyl chloride | 0.53 mmol, 0.05 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(3-pyridyl)propionic acid | 0.53 mmol, 80.2 mg | N1=CC(=CC=C1)CCC(=O)O | C8H9NO2
catalyst | benzyltriethylammonium chloride | 0.004 mmol, 1 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 3-(3-pyridyl)propanoyl chloride | N1=CC(=CC=C1)CCC(=O)Cl | C8H8ClNO
